US04198522
p-Hexadecylaminobenzyl Acetate
One-half ml. of 30% aqueous sodium acetate is added to a solution of p-hexadecylaminobenzyl alcohol acetate hydrobromide (100 mg.) in methylene chloride (2 ml.). After thorough mixing, the organic layer is separated, dried over anhydrous sodium sulfate, and evaporated at ambient temperature to provide the product (50 mg.) of the Example, m.p. 43°-45° C.

reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | p-hexadecylaminobenzyl alcohol acetate hydrobromide | 100 mg | Br.C(C)(=O)OCC1=CC=C(C=C1)NCCCCCCCCCCCCCCCC
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | p-Hexadecylaminobenzyl Acetate | C(C)(=O)OCC1=CC=C(C=C1)NCCCCCCCCCCCCCCCC | C25H43NO2
